US07307075B2
6,8-Dichloro-7-methyl-4H-benzo[1,4]oxazin-3-one (81MF2225)
6-Amino-2.4 dichloro-3-metylphenol (1.9 g, 10 mmol), 2-chloroacetyl chloride (1.2 g, 11 mmol) and K2CO3 (3.0 g, 22 mmol) were mixed according to GP1 to give the title compound as a crude (80MF2225) (2.33 g).

reactant | 6-Amino-2.4 dichloro-3-metylphenol | 10 mmol, 1.9 g | NC1=CC(=C(C(=C1O)Cl)C)Cl | C7H7Cl2NO
reactant | 2-chloroacetyl chloride | 11 mmol, 1.2 g | ClCC(=O)Cl | C2H2Cl2O
reactant | K2CO3 | 22 mmol, 3.0 g | C(=O)([O-])[O-].[K+].[K+]
product | 6,8-Dichloro-7-methyl-4H-benzo[1,4]oxazin-3-one | ClC=1C(=C(C2=C(NC(CO2)=O)C1)Cl)C | C9H7Cl2NO2
